US08703805B2
Preparation of 4,4,4-trifluoro-1-(2-trifluoromethyl-phenyl)-butane-1,3-dione
To a stirred solution of 2′-trifluoromethyl-acetophenone (225 mL, 15.0 mmol) in THF (20 mL, anhyd) at −78° C. added dropwise a 1.0M solution of lithium hexamethyldisilazide (LiHMDS) (15.8 mL, 15.8 mmol). After 1 h the reaction mixture was cooled to −78° C. and charged dropwise with ethyl trifluoroacetate (3.6 mL, 30 mmol). After addition was complete, the reaction mixture was allowed to warm to ambient temperature. The reaction mixture was quenched by slow addition of H2O (20 mL) and concentrated under reduced pressure. The resulting material was transferred to a separatory funnel, diluted with Et2O (60 mL), washed with 1N HCl and brine, then dried (MgSO4) and concentrated to yield the title compound (4.2 g, 99%) as an amber liquid, which was used in the next step without purification. Rf: 0.15 (20% EtOAc/Hex).

reactant | 2′-trifluoromethyl-acetophenone | 15.0 mmol, 225 mL | FC(C1=C(C=CC=C1)C(C)=O)(F)F | C9H7F3O
reactant | lithium hexamethyldisilazide | 15.8 mmol, 15.8 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | ethyl trifluoroacetate | 30 mmol, 3.6 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4,4,4-trifluoro-1-(2-trifluoromethyl-phenyl)-butane-1,3-dione | 4.2 g, 99% | FC(C(CC(=O)C1=C(C=CC=C1)C(F)(F)F)=O)(F)F | C11H6F6O2
